US06049009
Preparation of (R,E)-4-(2-naphtylthio)-3-buten-2-ol
(E)-4-(2-naphthylthio)-3-buten-2-one (228 mg, 1.0 mmol), (S)-3,3-diphenyl-1-methyltetrahydro-1H,3H-pyrrolo[1,2-c][1,3,2] oxazaborol (28 mg, 0.1 mmol) and MS4A (500 mg) were dried by a vacuum pump, followed by substituting with an argon gas. Dry toluene (5 ml) and dimethylsulfide (0.22 ml, 3.0 mmol) were added thereto and, after ice cooling, a solution of borane dimethylsulfide complex in toluene (1.07M, 0.65 ml, 0.7 mmol) was dropwise added. After stirring for two hours, an aqueous saturated ammonium chloride solution was added, followed by filtering through a cotton plug.

reactant | (E)-4-(2-naphthylthio)-3-buten-2-one | 1.0 mmol, 228 mg | C1=C(C=CC2=CC=CC=C12)S/C=C/C(C)=O | C14H12OS
reactant | (S)-3,3-diphenyl-1-methyltetrahydro-1H,3H-pyrrolo[1,2-c][1,3,2] oxazaborol | 0.1 mmol, 28 mg | C1(=CC=CC=C1)C1([C@H]2N(B(O1)C)CCC2)C2=CC=CC=C2 | C18H20BNO
reactant | dimethylsulfide | 3.0 mmol, 0.22 ml | CSC | C2H6S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.7 mmol, 1.07M, 0.65 ml | C1(=CC=CC=C1)C | C7H8
product | (R,E)-4-(2-naphtylthio)-3-buten-2-ol | C1=C(C=CC2=CC=CC=C12)S/C=C/[C@@H](C)O | C14H14OS
